US07696195B2
1k) tert.-butyl 7-methyl-5-{(R)-3-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-3-oxo-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propyl}-indazol-1-carboxylate
A solution of 440 mg tert.-butyl 5-{(R)-2-carboxy-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-ethyl}-7-methyl-indazol-1-carboxylate, 256 mg (0.8 mmol) TBTU, 146 μL (1.0 mmol) triethylamine and 147 mg (0.8 mmol) 1-methyl-4-piperidin-4-yl-piperazine in 8 mL DMF was stirred for 2 h at RT. The reaction solution was filtered through an injection filter and purified directly by HPLC without any further working up. The fractions containing the product were combined, evaporated down i.vac., made alkaline with 15% K2CO3 solution, extracted three times with 30 mL DCM, the combined organic phases were dried over Na2SO4 and the solvent was eliminated i. vac.

reactant | tert.-butyl 5-{(R)-2-carboxy-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-ethyl}-7-methyl-indazol-1-carboxylate | 440 mg | C(=O)(O)[C@@H](CC=1C=C2C=NN(C2=C(C1)C)C(=O)OC(C)(C)C)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C31H37N5O7
reactant | TBTU | 0.8 mmol, 256 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 1.0 mmol, 146 μL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-4-piperidin-4-yl-piperazine | 0.8 mmol, 147 mg | CN1CCN(CC1)C1CCNCC1 | C10H21N3
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | tert.-butyl 7-methyl-5-{(R)-3-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-3-oxo-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propyl}-indazol-1-carboxylate | CC=1C=C(C=C2C=NN(C12)C(=O)OC(C)(C)C)C[C@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C41H56N8O6
